US03953449
5.75 G. (0.015 mol) of 2-(4-m-chlorophenyl-piperazino)-ethyl 2-nitrobenzoate in 100 ml. of methanol is hydrogenated at ambient temperature and at atmospheric pressure, in the presence of 1 g. of 10% palladium on charcoal. The theoretical amount of hydrogen (1 1.) is absorbed in 40 minutes. The catalyst is filtered off, the methanol is evaporated from the filtrate, and the residue is recrystallised from isopropyl alcohol to give 4 g. (yield = 74.1%) of 2-(4-m-chlorophenylpiperazino)-ethyl anthranilate, which melts at 77° and which was shown to be identical, using a mixed melting point, to the product of Examples 14 and 16.

reactant | 2-(4-m-chlorophenyl-piperazino)-ethyl 2-nitrobenzoate | 0.015 mol | [N+](=O)([O-])C1=C(C(=O)OCCN2CCN(CC2)C2=CC(=CC=C2)Cl)C=CC=C1 | C19H20ClN3O4
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-(4-m-chlorophenylpiperazino)-ethyl anthranilate | yield = 74.1% | C(C=1C(N)=CC=CC1)(=O)OCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C19H22ClN3O2
